US05143920
Ethyl 2-butyryl-3-(2-fluorophenylamino)acrylate (37 g, 0.13 mol) was added in portions to boiling diphenyl ether (450 ml), then heated at reflux for 1.5 hours. After partial cooling the mixture was diluted with petroleum ether (50 ml). Filtration and washing with petroleum ether gave 3-butyryl-8-fluoro-4(1H)-quinolone (26.5 g), m.p. 176°-178°.

reactant | Ethyl 2-butyryl-3-(2-fluorophenylamino)acrylate | 0.13 mol, 37 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)F | C15H18FNO3
solvent | diphenyl ether | 450 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-butyryl-8-fluoro-4(1H)-quinolone | 26.5 g | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)F | C13H12FNO2
